US07678801B2
N-[3-(8-(2,4-difluorophenyl)-2-{[2-hydroxy-1-(hydroxymethyl)ethyl]amino}-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl)phenyl]acetamide
The title compound was prepared by following the procedure in example 96d from 4-chloro-8-(2,4-difluorophenyl)-2-{[2-hydroxy-1-(hydroxymethyl)ethyl]amino}pyrido[2,3-d]pyrimidin-7(8H)-one and [3-(acetylamino)phenyl]boronic acid: LC-MS m/z 482 (M+H)+, retention 2.69 min.

reactant | 4-chloro-8-(2,4-difluorophenyl)-2-{[2-hydroxy-1-(hydroxymethyl)ethyl]amino}pyrido[2,3-d]pyrimidin-7(8H)-one | ClC=1C2=C(N=C(N1)NC(CO)CO)N(C(C=C2)=O)C2=C(C=C(C=C2)F)F | C16H13ClF2N4O3
reactant | [3-(acetylamino)phenyl]boronic acid | C(C)(=O)NC=1C=C(C=CC1)B(O)O | C8H10BNO3
product | N-[3-(8-(2,4-difluorophenyl)-2-{[2-hydroxy-1-(hydroxymethyl)ethyl]amino}-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl)phenyl]acetamide | FC1=C(C=CC(=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C=CC2)NC(C)=O)NC(CO)CO)=O | C24H21F2N5O4
